US08293746B2
Step 2.3: 1-Methyl-4-(3-nitro-benzyl)-piperazine
A mixture of 3-nitrobenzylchloride (5 g, 29.14 mmol), N-methylpiperazine (3.9 mL, 34.97 mmol, 1.2 equiv), potassium carbonate (8 g, 58.28, 2 equiv), and acetone (100 ml) is stirred for 15 h at reflux. The reaction mixture is allowed to cool to RT, filtered and concentrated. The residue is purified by silica gel MPLC (DCM/MeOH+1% NH3aq, 95:5) to afford the title compound as a brow oil: ESI-MS: 236.0 [MH]+; tR=1.40 min (purity: 100%, system 1); TLC: Rf=0.31 (DCM/MeOH+1% NH3aq, 9:1).

reactant | 3-nitrobenzylchloride | 29.14 mmol, 5 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | N-methylpiperazine | 34.97 mmol, 3.9 mL, 1.2 equiv | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 8 g, 2 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-Methyl-4-(3-nitro-benzyl)-piperazine | CN1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-] | C12H17N3O2
